US04036858
Under a protective gas, 20 g. (0.82 gram atom) of magnesium filings in 150 ml. of tetrahydrofuran is charged into a 1-liter three-necked flask. Within about 60 minutes, 120 g. (0.73 mole) of 1-bromo-4-methylpentane in 270 ml. of tetrahydrofuran is added dropwise to the reaction mixture so that a reaction temperature of 60° C. evolves. The agitation is continued for another 11/2 hours at 50° C. The thus-formed Grignard compound is separated from the unreacted magnesium by means of a glass pipette and transferred into a dropping funnel placed on top of a 2-liter three-necked flask. This flask is to be used for dissolving 84.0 g. (0.7 mole) of allyl bromide in 620 ml. of tetrahydrofuran and for combining this solution with 2.5 millimoles of Li2CuCl4 (as a 0.1-molar solution in THF). Within 60 minutes, the Grignard solution is to be dropped under stirring to this mixture, which latter has been cooled to -10° to -5° C. The reaction mixture is maintained at 0° C. for another 11/2 hours before Grignard compound is gently decomposed with saturated ammonium chloride solution (or about 50 ml. of water). The organic phase is separated, the residue is extracted repeatedly with ether, and the combined, olefin-containing phases are dried over sodium sulfate. After the solvents have been evaporated, 7-methyl-1-octene can be obtained in the pure form by fractionation over a Vigreux attachment or a column:

reactant | magnesium | 0.82 gram | [Mg] | Mg
reactant | 1-bromo-4-methylpentane | 0.73 mole | BrCCCC(C)C | C6H13Br
reactant | allyl bromide | 0.7 mole | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 7-methyl-1-octene | Yield: 60-70% | CC(CCCCC=C)C | C9H18
